US05693651
(2) 5-[(7-benzyloxy-3-quinolyl)methyl]oxazolidine-2,4dione
In ethanol (1.5 mL) were suspended ethyl 2-hydroxy-3-(7-benzyloxy-3-quinolyl)propionate (162 mg, 0.461 mmol.), urea (48.7 mg, 0.804 mmol.) and sodium methoxide (28% methanolic solution, 0.12 mL, 0.622 mmol.). The resulting suspension was stirred for one hour at room temperature, and then heated under reflux for 4 hours. The reaction mixture was cooled, and neutralized by addition of saturated aqueous sodium hydrogen carbonate solution after addition of 1N hydrochloric acid (1.0 mL) and water (2.0 mL). Insolubles were collected, washed with ethyl acetate and ether, and dried under reduced pressure, to give 110 mg of the desired compound as white crystalline powder (yield 66%).

reactant | ethyl 2-hydroxy-3-(7-benzyloxy-3-quinolyl)propionate | 0.461 mmol, 162 mg | OC(C(=O)OCC)CC=1C=NC2=CC(=CC=C2C1)OCC1=CC=CC=C1 | C21H21NO4
reactant | urea | 0.804 mmol, 48.7 mg | NC(=O)N | CH4N2O
reactant | sodium methoxide | 0.622 mmol, 0.12 mL | C[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 1N, 1.0 mL | Cl | ClH
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | water | 2.0 mL | O | H2O
product | 5-[(7-benzyloxy-3-quinolyl)methyl]oxazolidine-2,4dione | 110 mg, yield 66% | C(C1=CC=CC=C1)OC1=CC=C2C=C(C=NC2=C1)CC1C(NC(O1)=O)=O | C20H16N2O4
